US06573273B1
A solution of phenyl isocyanate (1.00 g, 7.79 mmol) in dichloromethane (10 mL) was added dropwise over 5 minutes with stirring to a solution of 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine (2.00 g, 7.08 mmol) in dichloromethane (50 mL). The resulting precipitate was isolated by filtration to provide 2.50 g of N-[3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylurea.

reactant | phenyl isocyanate | 7.79 mmol, 1.00 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propylamine | 7.08 mmol, 2.00 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCN | C17H22N4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[3-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-phenylurea | 2.50 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCNC(=O)NC1=CC=CC=C1 | C24H27N5O
